US04239852
A conjugate of penicillanic acid and peroxidase was prepared as follows. An alkaline solution (pH=9.0) containing 28.1 mg 6 amino penicillanic acid is mixed with a phosphate buffered peroxidase solution containing 8.8 mg peroxidase and 8.2 mg carbodiimide in water. The reaction mixture is maintained at 4° C. for 24 hours while stirring. As a result, the peroxidase and 6 amino penicillanic acid became covalently linked. The conjugate solution is next dialyzed against 0.05 M phosphate buffered saline (PBS); penicillin activity disappears from the PBS after the first change of solution. After four solution changes, the penicillin-peroxidase conjugate is ready for use.

reactant | amino penicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | carbodiimide | 8.2 mg | N=C=N | CH2N2
solvent | water | O | H2O
product | penicillanic acid | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
